US07163936B2
To a solution of methyl 1-benzyl-6-methyl-1,2,5,6-tetrahydro-3-pyridinecarboxylate (2.05 g, 8.36 mmol) in THF (15 ml) were added at 0–5° C. allyl chloroformate (1.1 ml, 10.4 mmol). The mixture was immediately raised to room temperature and stirred for 18 hours. After cooled to 0–5° C. a saturated aqueous sodium hydrogen carbonate and ethy acetate were added thereto and the mixture was separated with a separating funnel. The aqueous layer was extracted twice with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, dried over magnesium sulfate and the solvent was removed in vacuo. The residue was purified with silica gel (55 g) chromatography (hexane/ethyl acetate=6/1→4/1) to give 1-allyl 3-methyl 6-methyl-5,6-dihydro-1,3(2 H)-pyridinedicarboxylate (1.42 g, 71%).

reactant | methyl 1-benzyl-6-methyl-1,2,5,6-tetrahydro-3-pyridinecarboxylate | 8.36 mmol, 2.05 g | C(C1=CC=CC=C1)N1CC(=CCC1C)C(=O)OC | C15H19NO2
reactant | allyl chloroformate | 10.4 mmol, 1.1 ml | ClC(=O)OCC=C | C4H5ClO2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | ethy acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 1-allyl 3-methyl 6-methyl-5,6-dihydro-1,3(2 H)-pyridinedicarboxylate | 1.42 g, 71% | CC1CC=C(CN1C(=O)OCC=C)C(=O)OC | C12H17NO4
